US03969402
2-(2-hydroxy-4-biphenylyl)propionic acid (140 mg.) in ether (5 ml.) was mixed with benzylamine (62 g.) in ether (5 ml.). The precipitate was collected, washed with ether, dried in vacuo and recrystallised for absolute alcohol/ether to give benzylammonium 2-(2-hydroxy4-biphenylyl) propionate, m.p. 183° - 185°C.

reactant | 2-(2-hydroxy-4-biphenylyl)propionic acid | 140 mg | OC1=C(C=CC(=C1)C(C(=O)O)C)C1=CC=CC=C1 | C15H14O3
reactant | benzylamine | 62 g | C(C1=CC=CC=C1)N | C7H9N
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | benzylammonium 2-(2-hydroxy4-biphenylyl) propionate | OC1=C(C=CC(=C1)C(C(=O)[O-])C)C1=CC=CC=C1.C(C1=CC=CC=C1)[NH3+] | InChI=1S/C15H14O3.C7H9N/c1-10(15(17)18)12-7-8-13(14(16)9-12)11-5-3-2-4-6-11;8-6-7-4-2-1-3-5-7/h2-10,16H,1H3,(H,17,18);1-5H,6,8H2
